US04965396
ethyl (4,5-difluoro-2-nitrobenzoyl)-3-ethoxyacrylate (III, X=fluoro, R=ethyl)
To 3 ml of acetic acid anhydrous were added 3 g (0.01 mol) of ethyl 4,5-difluoro-2-nitrobenzoylacetate and 2.44 g (0.016 mol) of ethylorthoformate.

reactant | ethyl 4,5-difluoro-2-nitrobenzoylacetate | 0.01 mol, 3 g | FC1=CC(=C(C(=O)CC(=O)OCC)C=C1F)[N+](=O)[O-] | C11H9F2NO5
reactant | ethylorthoformate | 0.016 mol, 2.44 g | C(C)OC([O-])[O-]
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | ethyl (4,5-difluoro-2-nitrobenzoyl)-3-ethoxyacrylate | FC1=CC(=C(C(=O)C(C(=O)OCC)=COCC)C=C1F)[N+](=O)[O-] | C14H13F2NO6
